US04246268
A chilled, stirred solution of 124 g (0.4 mole) of α-(4-trifluoromethyl-2-naphthyl)-4-piperidinemethanol hydrochloride in 600 ml of acetic acid, 40 ml of 25% sulfuric acid and 72 ml of water is added with stirring to 26.5 g (0.27 mole) of chromium trioxide in 30 ml of acetic acid over a period of 11/2 hours, during which time an additional 20 ml of water is added. The mixture is stirred for 1/2 hour at a temperature of less than 9° C. The solvent is removed under vacuum and the residue treated with excess sodium hydroxide and extracted with ether and with chloroform. The combined extracts are washed with water, dried over MgSO4 and filtered. To the filtrate is added additional chloroform and ethereal HCl. The resulting precipitate is filtered off and recrystallized from isopropyl alcohol to yield 4-trifluoromethyl-2-naphthyl 4-piperidyl ketone hydrochloride.

reactant | α-(4-trifluoromethyl-2-naphthyl)-4-piperidinemethanol hydrochloride | 0.4 mole, 124 g | Cl.FC(C1=CC(=CC2=CC=CC=C12)C(O)C1CCNCC1)(F)F
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 72 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.27 mole, 26.5 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 20 ml | O | H2O
product | 4-trifluoromethyl-2-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=CC=C2C(=C1)C(F)(F)F | InChI=1S/C17H16F3NO.ClH/c18-17(19,20)15-10-13(9-12-3-1-2-4-14(12)15)16(22)11-5-7-21-8-6-11;/h1-4,9-11,21H,5-8H2;1H
